US05047411
10% Palladium on carbon (0.5 g) was added to a mixture of 6-[2-[1-benzylimidazol-2-yl)vinyl]-2-ethylaminobenzoxazole (0.9 g) in a solution of methanol (50 ml) and conc. hydrochloric acid (6 ml), and the mixture was subjected to catalytic reduction under atmospheric pressure for 6 hours at ambient temperature. The catalyst was removed by filtration and the filtrate was evaporated in vacuo. The residue was purified by a column chromatography on alumina and eluted with a chloroform. The eluted fractions containing the desired product were collected and evaporated in vacuo. The residue was triturated with diethyl ether to give 2-ethylamino-6-[2-(2-imidazolyl)ethyl]benzoxazole (0.13 g).

reactant | 6-[2-[1-benzylimidazol-2-yl)vinyl]-2-ethylaminobenzoxazole | 0.9 g | C(C1=CC=CC=C1)N1C(=NC=C1)C=CC1=CC2=C(N=C(O2)NCC)C=C1 | C21H20N4O
reactant | hydrochloric acid | 6 ml | Cl | ClH
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 2-ethylamino-6-[2-(2-imidazolyl)ethyl]benzoxazole | 0.13 g | C(C)NC=1OC2=C(N1)C=CC(=C2)CCC=2NC=CN2 | C14H16N4O
